US07495103B2
4-Trifluoromethoxy-benzene-1,3-diamine (D-4) was synthesized following the general scheme above starting from 2,4-dinitro-1-trifluoromethoxy-benzene. Yield (89%). HPLC ret. time 0.91 min, 10-99% CH3CN, 5 min run; ESI-MS 193.3 m/z (MH+).

reactant | 2,4-dinitro-1-trifluoromethoxy-benzene | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])OC(F)(F)F | C7H3F3N2O5
solvent | CH3CN | CC#N | C2H3N
product | 4-Trifluoromethoxy-benzene-1,3-diamine | FC(OC1=C(C=C(C=C1)N)N)(F)F | C7H7F3N2O
